US07732616B2
Step A: Preparation of 2-chloro-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid:
A mixture of 2,6-dichloro-5-fluoronicotinic acid (15.00 g, 71.43 mmol, Lancaster Synthesis) and 2 N NaOH (178.6 ml, 357.2 mmol) was stirred at reflux for 2 hours and then at room temperature for 16 hours. The reaction mixture was cooled to 0° C. and acidified with 12 N HCl (32.74 ml, 392.9 mmol). The mixture was cooled for 30 minutes in an ice bath, the solid filtered and washed with H2O. The isolated solid was slurried in warm EtOH, filtered and then washed with warm EtOH. The solids were collected and dried under vacuum overnight to yield the desired product (6.4 g, 47%) as a beige solid.

reactant | 2,6-dichloro-5-fluoronicotinic acid | 71.43 mmol, 15.00 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | NaOH | 357.2 mmol, 2 N, 178.6 ml | [OH-].[Na+]
reactant | HCl | 392.9 mmol, 12 N, 32.74 ml | Cl | ClH
product | 2-chloro-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 6.4 g, 47% | ClC=1NC(C(=CC1C(=O)O)F)=O | C6H3ClFNO3
